US09029545B2
2,6-Dimethyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-amine
To a solution of 2-amino-5-methyl-4-[3-(methyloxy)phenyl]-3-thiophenecarbonitrile (Description 3) (260 mg, 1.064 mmol) in toluene (2.5 mL), were added at RT, acetone (0.094 mL, 1.277 mmol) and SnCl4 (0.150 mL, 1.277 mmol), the reaction mixture was stirred for 5 min at RT then for 15 min at 150° C. in a microwave. The reaction mixture was cooled to RT then diluted with aqueous NaOH (1M) until the solution turned basic. The aqueous layer was then extracted with DCM (3×30 mL), the combined organic extracts were dried over a phase separating column and concentrated. Purification by chromatography on silica gel, eluting with a gradient of 0-30% ethyl acetate in cyclohexane, afforded the title compound (167 mg). LCMS (A) m/z: 285 [M+1]+, Rt 1.20 min (basic).

reactant | 2-amino-5-methyl-4-[3-(methyloxy)phenyl]-3-thiophenecarbonitrile | 1.064 mmol, 260 mg | NC=1SC(=C(C1C#N)C1=CC(=CC=C1)OC)C | C13H12N2OS
reactant | acetone | 1.277 mmol, 0.094 mL | CC(=O)C | C3H6O
reactant | SnCl4 | 1.277 mmol, 0.150 mL | Cl[Sn](Cl)(Cl)Cl
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | NaOH | 1M | [OH-].[Na+]
product | 2,6-Dimethyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-amine | 167 mg | CC1=C(C2=C(N=C(C=C2N)C)S1)C1=CC(=CC=C1)OC | C16H16N2OS
